* Schematics Netlist *



X_HB2_U2         $N_0001 HB1_Cout S1 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_HB2_U6         $N_0002 $N_0003 HB3_Cin $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_HB2_U1         A1 B1 $N_0001 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_HB2_U3         A1 B1 $N_0002 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_HB2_U5         A1 B1 $N_0004 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_HB2_U4         $N_0004 HB1_Cout $N_0003 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_HB3_U2         $N_0005 HB3_Cin S2 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_HB3_U6         $N_0006 $N_0007 HB4_Cin $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_HB3_U1         A2 B2 $N_0005 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_HB3_U3         A2 B2 $N_0006 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_HB3_U5         A2 B2 $N_0008 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_HB3_U4         $N_0008 HB3_Cin $N_0007 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_HB4_U2         $N_0009 HB4_Cin S3 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_HB4_U6         $N_0010 $N_0011 Cout $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_HB4_U1         A3 B3 $N_0009 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_HB4_U3         A3 B3 $N_0010 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_HB4_U5         A3 B3 $N_0012 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_HB4_U4         $N_0012 HB4_Cin $N_0011 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_HB1_U2         $N_0013 $D_LO S0 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_HB1_U6         $N_0014 $N_0015 HB1_Cout $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_HB1_U1         A0 B0 $N_0013 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_HB1_U3         A0 B0 $N_0014 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_HB1_U5         A0 B0 $N_0016 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_HB1_U4         $N_0016 $D_LO $N_0015 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         STIM(8,11111111)
+ $G_DPWR $G_DGND
+ A3 A2 A1 A0 B3 B2 B1 B0 
+ IO_STM
+ IO_LEVEL=0
+ TIMESTEP=10us 
+ 0s 00000000  
+ label=bucle  
+ 1c incr by 00000001  
+ 2c goto bucle until ge 11111111 
