* Schematics Netlist *



X_U1         X Y $N_0001 $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U5         X Y $N_0002 $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3         X Y $N_0003 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4         $N_0002 Cin $N_0004 $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2         $N_0001 Cin S $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U6         $N_0003 $N_0004 Cout $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         FSTIM(3) $G_DPWR $G_DGND Cin X Y IO_STM FILE="tabla3.txt"
+  IO_LEVEL=0 SIGNAMES=Cin,X,Y
