* Schematics Netlist *



X_U3A         A NOT $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4A         A B AND $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1A         A B NAND $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U5A         A B OR $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U6A         A B NOR $G_DPWR $G_DGND 7433 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U8A         XOR XNOR $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U7A         A B XOR $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R1         NOR $N_0001  1k  
X_U10A         y $N_0002 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U9A         x $N_0003 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_V1         $N_0001 0 0v
U_DSTM2         STIM(4,1111)
+ $G_DPWR $G_DGND
+ x y A B 
+ IO_STM
+ IO_LEVEL=0
+ TIMESTEP=10us 
+ 0s 0000  
+ label=bucle  
+ 1c incrementa by 0001  
+ 2c goto bucle until ge 0011 
