* Schematics Netlist *



X_U3A         A NOT $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4A         A B AND $G_DPWR $G_DGND 7408 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1A         A B NAND $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U5A         A B OR $G_DPWR $G_DGND 7432 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U6A         A B NOR $G_DPWR $G_DGND 7433 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U8A         XOR XNOR $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U7A         A B XOR $G_DPWR $G_DGND 7486 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         FSTIM(2) $G_DPWR $G_DGND A B IO_STM FILE="tabla2.txt"
+  IO_LEVEL=0 SIGNAMES=A,B
R_R1         NOR $N_0001  1k  
V_V1         $N_0001 0 5V
